US05047420
To dry ethanol (100 ml) under a nitrogen atmosphere was added sodium (4.2 gm, 0.18 mol). After the sodium had completely dissolved, ethyl 3,4,5-trimethoxy-α-cyanobenzeneacetate (50.0 g, 0.18 mol) in ethanol (70 ml) was added dropwise over 30 minutes. A slight exotherm was observed. The reaction was heated to 90° C. for 30 minutes, then added dropwise over 2 hours to a refluxing solution of dibromoethane (340.0 g, 1.8 mol) in ethanol (500 ml). The reaction was refluxed an additional 3 hours, then concentrated. The residue was taken up in water (300 ml) and extracted with ethyl acetate (2×500 ml). The combined organic layers were washed with brine (1×100 ml), dried (MgSO4) and concentrated to a solid. The solid was washed with hexane (3×200 ml) then recrystallized from hexane to give ethyl 3,4,5-trimethoxy-α-(2-bromoethyl)-α-cyanobenzeneacetate in 65% yield as a white solid, m.p. 76°-77° C.

reactant | sodium | 0.18 mol, 4.2 gm | [Na] | Na
reactant | ethyl 3,4,5-trimethoxy-α-cyanobenzeneacetate | 0.18 mol, 50.0 g | COC=1C=C(C=C(C1OC)OC)C(C(=O)OCC)C#N | C14H17NO5
reactant | dibromoethane | 1.8 mol, 340.0 g | BrC(C)Br | C2H4Br2
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 3,4,5-trimethoxy-α-(2-bromoethyl)-α-cyanobenzeneacetate | 65% yield | COC=1C=C(C=C(C1OC)OC)C(C(=O)OCC)(C#N)CCBr | C16H20BrNO5
